US07459562B2
C) (E)-tert-Butyl 1-(3-(4-(2-fluoro-4-nitrophenoxy)pyridin-3-yl)acryloyl)piperidin-4-ylcarbamate
A solution of (E)-3-(4-(2-fluoro-4-nitrophenoxy)pyridin-3-yl)acrylic acid (143 mg, 0.42 mmol), 4-N-Boc-aminopiperidine (Aldrich, 84 mg, 0.42 mmol) in DMF (1.5 mL) was treated with DIPEA (160 μL, 0.92 mmol), and TBTU (160 mg, 0.50 mmol) and the mixture stirred at rt for 2 h. The mixture was diluted with EtOAc, washed with saturated aq. NaHCO3 solution and brine, dried (MgSO4) and concentrated in vacuo. The crude product was purified by flash chromatography on silica gel eluting first with 30-100% EtOAc/hexanes then 5% MeOH/CH2Cl2 to give the title compound (110 mg, 54%) as a light brown solid. 1H NMR (DMSO-d6) δ 9.15 (s, 1H), 8.48 (d, 1H, J=5.6 Hz), 8.44 (dd, 1H, J=2.5, 10.5 Hz), 8.18 (d, 1H, J=9.2 Hz), 7.69 (d, 1H, J=15.3 Hz), 7.58 (dd, 1H, J=8.6, 8.6 Hz), 7.50 (d, 1H, J=15.7 Hz), 6.97 (d, 1H, J=5.6 Hz), 6.89 (d, 1H, J=7.6 Hz), 4.31-4.16 (m, 2H), 3.55-3.46 (m, 1H), 3.20-3.14 (m, 1H), 2.83-2.81 (m, 1H), 1.82-1.71 (m, 2H), 1.34-1.18 (m, 2H), 1.37 (s, 9H); MS(ESI+): m/z 431.04 (100) [(M-C4H9)+H]+; m/z 487.10 (90) (M+H)+.

reactant | (E)-3-(4-(2-fluoro-4-nitrophenoxy)pyridin-3-yl)acrylic acid | 0.42 mmol, 143 mg | FC1=C(OC2=C(C=NC=C2)/C=C/C(=O)O)C=CC(=C1)[N+](=O)[O-] | C14H9FN2O5
reactant | 4-N-Boc-aminopiperidine | 0.42 mmol, 84 mg | CC(C)(C)OC(=O)NC1CCNCC1 | C10H20N2O2
reactant | DIPEA | 0.92 mmol, 160 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 0.50 mmol, 160 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (E)-tert-Butyl 1-(3-(4-(2-fluoro-4-nitrophenoxy)pyridin-3-yl)acryloyl)piperidin-4-ylcarbamate | 110 mg, 54% | FC1=C(OC2=C(C=NC=C2)/C=C/C(=O)N2CCC(CC2)NC(OC(C)(C)C)=O)C=CC(=C1)[N+](=O)[O-] | C24H27FN4O6
